US05942515
Preparation of 3-{[1-(tetrahydro-2-oxo-3-furyl)-ethylidene]amino}pyrazole:
In 12 ml of anhydrous ethanol were added 0.83 g (10.00 mmol) of 3-aminopyrazole and 1.92 g (15.00 mmol) of 2-acetyl-γ-butyrolactone. While stirring at room temperature, 0.1 ml of a boron trifluoride methanol complex were added to the resultant solution, and the mixture was then stirred for 4 hours under the same conditions. Solids deposited were collected by filtration, washed with ethanol and air-dried to obtain 1.34 g (yield: 69.4%) of the intended product.

reactant | 3-aminopyrazole | 10.00 mmol, 0.83 g | NC1=NNC=C1 | C3H5N3
reactant | 2-acetyl-γ-butyrolactone | 15.00 mmol, 1.92 g | C(C)(=O)C1C(=O)OCC1 | C6H8O3
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 3-{[1-(tetrahydro-2-oxo-3-furyl)-ethylidene]amino}pyrazole | 1.34 g, yield: 69.4% | O=C1OCCC1C(C)=NC1=NNC=C1 | C9H11N3O2
